data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.201801173.json
{"doi": "10.1002_adsc.201801173", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dimethoxylation of olefins via anodic oxidation through a cation-initiated (ionic-like) pathway, with divergence to semipinacol-rearranged acetals for less-stabilized carbocations", "mechanism_family": ["radical_cation", "cation_initiated", "radical_polar_crossover"], "electrochemical_role": "Anodic single-electron oxidation of the alkene to a radical cation; a second anodic oxidation of the β-methoxy carbon radical generates the key carbocation, while H2 is evolved at the cathode from MeOH reduction", "key_intermediates": [{"name": "alkene radical cation (i1)", "smiles": null, "role": "transient"}, {"name": "β-methoxy carbon-centered radical (i2) from MeOH addition to radical cation", "smiles": null, "role": "transient"}, {"name": "β-methoxy carbocation (i3) after second anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "rearranged carbocation (i4) from 1,2-shift (semipinacol pathway)", "smiles": null, "role": "reactive"}, {"name": "1,2-dimethoxylated product (path I) / acetal product (path II)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the alkene (1) by SET to a radical cation i1, which is attacked by MeOH to give a β-methoxy C-radical i2; a second anodic SET gives carbocation i3, which is trapped by a second MeOH (path I, stabilized cations) or undergoes 1,2-aryl/alkyl migration to i4 before MeOH trapping (path II); protons reduced at cathode to H2.", "rate_determining_step": "Not the nucleophilic addition of MeOH (excluded by KIE studies); most likely the initial anodic oxidation of the alkene", "probe_reagents": [{"name": "radical-clock substrate 1aa (cyclopropyl-substituted alkene)", "smiles": null, "purpose": "radical_clock", "observation": "Reaction proceeded smoothly to 2aa without any ring-opening/ring-expansion products, arguing against a long-lived C-radical and supporting an ionic-like pathway"}, {"name": "deuterated MeOH (KIE experiment)", "smiles": "[2H]OC", "purpose": "KIE", "observation": "KIE indicated that nucleophilic addition of MeOH is not the rate-determining step"}, {"name": "MeOH / 1a / 1al cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "No oxidation peak for MeOH in the operating window; clear oxidation peaks for olefins 1a and 1al, showing alkene is oxidized preferentially and excluding methoxyl radical generation"}], "evidence_types_used": ["KIE", "radical_clock", "cyclic_voltammetry", "H/D_labeling"], "evidence_strength": "medium", "notes": "Two divergent pathways from the same cationic intermediate i3: path I direct MeOH trapping for stabilized (tri/diaryl) cations giving 1,2-dimethoxylation; path II semipinacol 1,2-migration for less stable (1,2-disubstituted) cations giving acetal products (Scheme 3). Authors explicitly exclude a methoxyl-radical pathway based on CV. A radical-cation intermediate is retained at the start, so a brief radical-polar crossover step is involved, but overall the productive C–O bond formation is described as ionic/cation-initiated."}
